US07498440B2
1-(2-{[(4-chlorophenyl)methyl]oxy}ethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (30 mg, 0.102 mmol) was added to a solution of 1-{[(2-bromoethyl)oxy]methyl}-4-chlorobenzene (36 mg, 0.143 mmol) in 2:3 CH3CN/CHCl3 (3 mL), and the reaction was heated at 60° C. for 96 h. The reaction was concentrated, and the crude product was washed with EtOAc (3×1 mL). The product was dried under high vacuum to give the title compound (17.4 mg, 32%). LC/MS ESI RT 2.09 min M+ 462

reactant | 1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.102 mmol, 30 mg | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-{[(2-bromoethyl)oxy]methyl}-4-chlorobenzene | 0.143 mmol, 36 mg | BrCCOCC1=CC=C(C=C1)Cl | C9H10BrClO
solvent | CH3CN CHCl3 | 3 mL | CC#N.C(Cl)(Cl)Cl
product | 1-(2-{[(4-chlorophenyl)methyl]oxy}ethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 17.4 mg, 32% | [Br-].ClC1=CC=C(C=C1)COCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C29H33ClNO2.BrH/c30-27-13-11-24(12-14-27)23-33-22-21-31-18-15-28(16-19-31,17-20-31)29(32,25-7-3-1-4-8-25)26-9-5-2-6-10-26;/h1-14,32H,15-23H2;1H/q+1;/p-1
